US04808762
A stirred solution of 5.0 grams (0.0228 mole) of 3-phenoxyphenylmethyl chloride and 5.6 grams (0.0217 mole) of triphenyl phosphine in 50 mL of dry toluene was heated at reflux for 8 hours. The reaction mixture was cooled and filtered to collect a solid. The solid was washed with pentane and dried, yielding 4.6 grams of 3-phenoxyphenylmethyltriphenylphosphonium chloride. The nmr spectrum was consistent with the proposed structure.

reactant | 3-phenoxyphenylmethyl chloride | 0.0228 mole, 5.0 grams | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCl | C13H11ClO
reactant | triphenyl phosphine | 0.0217 mole, 5.6 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-phenoxyphenylmethyltriphenylphosphonium chloride | 4.6 grams | [Cl-].O(C1=CC=CC=C1)C=1C=C(C=CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H26OP.ClH/c1-5-15-27(16-6-1)32-28-17-13-14-26(24-28)25-33(29-18-7-2-8-19-29,30-20-9-3-10-21-30)31-22-11-4-12-23-31;/h1-24H,25H2;1H/q+1;/p-1
